US07507736B2
4-[1-(2,2-Difluoro-ethyl)-5-(1-isopropyl-piperidin-4-yloxy)-1H-indole-2-carbonyl]-piperazine-1-carboxylic acid methyl ester
The title compound was prepared in analogy to example 51, from [1-(2,2-difluoro-ethyl)-5-(1-isopropyl-piperidin-4-yloxy)-1H-indol-2-yl]-piperazin-1-yl-methanone hydrochloride and methyl chloroformate. Light-yellow solid. MS (m/z): 493.2 (M+H)+.

reactant | [1-(2,2-difluoro-ethyl)-5-(1-isopropyl-piperidin-4-yloxy)-1H-indol-2-yl]-piperazin-1-yl-methanone hydrochloride | Cl.FC(CN1C(=CC2=CC(=CC=C12)OC1CCN(CC1)C(C)C)C(=O)N1CCNCC1)F
reactant | methyl chloroformate | ClC(=O)OC | C2H3ClO2
product | 4-[1-(2,2-Difluoro-ethyl)-5-(1-isopropyl-piperidin-4-yloxy)-1H-indole-2-carbonyl]-piperazine-1-carboxylic acid methyl ester | COC(=O)N1CCN(CC1)C(=O)C=1N(C2=CC=C(C=C2C1)OC1CCN(CC1)C(C)C)CC(F)F | C25H34F2N4O4
